US09428502B2
Compound 266.1. 2-Cyclopropyl-3-oxobutanenitrile
Into a 100-mL three neck round-bottom flask, which was purged and maintained with an inert atmosphere of argon, was placed a solution of 2-cyclopropylacetonitrile (3.70 mL, 40.1 mmol) in THF (20 mL). The solution was cooled to −78° C., then LDA (2 M in THF, 30 mL, 60 mmol) was added drop-wise and the mixture was stirred for 1 h at −78° C. A solution of acetic anhydride (4.54 mL, 48.0 mmol) in tetrahydrofuran (10 mL) was added drop-wise at −78° C. The mixture was stirred for 1 h at 15° C., then carefully quenched with citric acid (10% aq, 200 mL). The mixture was extracted with diethyl ether (2×70 mL) and the combined organic extracts were washed with brine (50 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to obtain the title compound, which was used in the next step without purification.

reactant | 2-cyclopropylacetonitrile | 40.1 mmol, 3.70 mL | C1(CC1)CC#N | C5H7N
reactant | LDA | 60 mmol, 2 M, 30 mL | [Li+].CC(C)[N-]C(C)C
reactant | acetic anhydride | 48.0 mmol, 4.54 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-Cyclopropyl-3-oxobutanenitrile | C1(CC1)C(C#N)C(C)=O | C7H9NO
